US04129656
(e) 2-Bromo-5-chloro-6-sulfamoyl-1-indanone
0.1 Milliliter of 48% aqueus HBr is added to a suspension of 52 g (0.21 mole) of 5-chloro-6-sulfamoyl-1-indanone in 530 ml of glacial acetic acid. Subsequently a solution of 34.0 g (0.21 mole) of bromine in 160 ml of glacial acetic acid is added dropwise. The mixture is stirred for another 1.5 hours, and is then poured into a solution of 4.5 g of NaHSO3 in 2 of ice water. The 2-bromo-5-chloro-6sulfamoyl-1-indanone which crystallizes after stirring for some time is filtered off with suction and is washed with water.

reactant | HBr | Br | BrH
reactant | 5-chloro-6-sulfamoyl-1-indanone | 0.21 mole, 52 g | ClC=1C=C2CCC(C2=CC1S(N)(=O)=O)=O | C9H8ClNO3S
reactant | bromine | 0.21 mole, 34.0 g | BrBr | Br2
reactant | NaHSO3 | 4.5 g | OS(=O)[O-].[Na+]
solvent | acetic acid | 530 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-5-chloro-6-sulfamoyl-1-indanone | BrC1C(C2=CC(=C(C=C2C1)Cl)S(N)(=O)=O)=O | C9H7BrClNO3S
